US09283186B2
B. Synthesis of 2,2-Dimethyl-N-(2-morpholin-4-yl-ethyl)-malonamic Acid Ethyl Ester
19 g 2,2-Dimethyl-malonic acid monoethyl ester were weighed into a round-bottomed flask and under N2 atmosphere and room temperature, 200 ml tetrahydrofurane, 15.6 ml 4-(2-Aminoethyl)-morpholine and 32.6 ml N-Methylmorpholine were added. The reaction was stirred and cooled down to 5° C. Then, 43.8 g TBTU were added and the mixture was allowed to stir for another 1.5 hours. Finally the solvent was removed and the residue dissolved in 400 ml dichloromethane. This organic phase was washed two times with 500 ml NaHCO3 solution. The dichloromethane phase was dried then the solvent was evaporated. Purity of the product was judged by gas chromatography.

reactant | 2,2-Dimethyl-malonic acid monoethyl ester | 19 g | C(C)OC(C(C(=O)O)(C)C)=O | C7H12O4
reactant | 4-(2-Aminoethyl)-morpholine | 15.6 ml | NCCN1CCOCC1 | C6H14N2O
reactant | N-Methylmorpholine | 32.6 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 43.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | tetrahydrofurane | 200 ml | O1CCCC1 | C4H8O
product | 2,2-Dimethyl-N-(2-morpholin-4-yl-ethyl)-malonamic Acid Ethyl Ester | C(C)OC(C(C(=O)NCCN1CCOCC1)(C)C)=O | C13H24N2O4
